US07915264B2
Lithium chloride (27 mmol) and copper (I) chloride (13.46 mmol) are weighed into a flame dried 250 mL round-bottomed flask fitted with low temperature thermometer. Dry THF (50 mL) is added and the mixture stirred at RT for 1 h to give a cloudy yellow-green solution. This is cooled to −55° C. and isopropylmagnesium chloride (6.75 mL of a 2 M solution in THF, 13.5 mmol) is added. After 15 min hydrocinnamoyl chloride (13.46 mmol) is added quickly at −60° C. and the mixture allowed to warm slowly to RT overnight. The mixture is quenched with water (100 mL) and 35% ammonium hydroxide (20 mL) is added. The mixture is stirred at RT for 1 h and then extracted with diethyl ether (3×50 mL). The combined ether extracts are washed with saturated brine (50 mL), dried (MgSO4), filtered and evaporated under reduced pressure to give 4-methyl-1-phenyl-pentan-3-one.

reactant | Lithium chloride | 27 mmol | [Cl-].[Li+]
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | hydrocinnamoyl chloride | 13.46 mmol | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
solvent | THF | C1CCOC1 | C4H8O
catalyst | copper (I) chloride | 13.46 mmol | [Cu]Cl
product | 4-methyl-1-phenyl-pentan-3-one | CC(C(CCC1=CC=CC=C1)=O)C | C12H16O
